US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-(methylsulfonamido)benzofuran-3-carboxamide
To a mixture of 6-amino-2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide (53.3 mg, 0.100 mmol) (crude) in ClCH2CH2Cl (1 ml) at r.t. under N2 was added pyridine (0.024 mL, 0.300 mmol). The mixture was then added a solution of methanesulfonyl chloride (22.88 mg, 0.200 mmol) in ClCH2CH2Cl (0.3 ml), and stirred for about 22 hours. The mixture was diluted with MeOH and purified by Shimadzu-VP preparative reverse phase HPLC using the separation method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=10 min, Stop time=12 min, Flow Rate=25 mL/min, Column: Waters-Sunfire 19×100 mm S5, Fraction Collection: 6.75-7.37 min. (UV detection at 220 nm). 1H NMR (500 MHz, CD3OD) δ 7.98 (m, J=8.85, 5.19, 2H), 7.85 (dd, J=8.09, 1.98, 1H), 7.79 (s, 1H), 7.75 (d, J=1.53, 1H), 7.51 (s, 1H), 7.47 (d, J=7.93, 1H), 7.17 (m, 1H), 7.30-7.26 (overlapping m, 5H), 7.29 (s, 1H), 2.93 (s, 3H), 2.88 (s, 3H), 2.23 (s, 3H), 1.35 (appeared as d, 4H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=612.34, HPLC Rt=1.583 min. Analytical HPLC were performed by using Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: Solvent A=5% MeCN-95% H2O-0.1% TFA, Solvent B=95% MeCN-5% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: Sunfire C18, 3.5 um, 4.6×150 mm, Rt=7.48 min; XBridge phenyl 3.5 um, 4.6×150 mm, Rt=6.24 min. Analytical HPLC method: Solvent A=5% MeOH-95% H2O-10 mM NH4HCO3, Solvent B=95% MeOH-5% H2O-10 mM NH4HCO3, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: XBridge phenyl, Rt=11.46 min.

reactant | 6-amino-2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | 0.100 mmol, 53.3 mg | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1=C(C=CC(=C1)C(NC1(CC1)C1=CC=CC=C1)=O)C | C33H28FN3O3
reactant | pyridine | 0.300 mmol, 0.024 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.200 mmol, 22.88 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | ClCH2CH2Cl | 1 ml | C(CCl)Cl | C2H4Cl2
solvent | ClCH2CH2Cl | 0.3 ml | C(CCl)Cl | C2H4Cl2
solvent | MeOH | CO | CH4O
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-(methylsulfonamido)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)NS(=O)(=O)C)C2=C(C=CC(=C2)C(NC2(CC2)C2=CC=CC=C2)=O)C | C34H30FN3O5S
